US05624948
To a solution of 4-(2-t-butyldimethylsiloxyethyl)bromobenzene (4.29 g) in tetrahydrofuran (30 ml) was added n-butyllithium (1.64 mol/l solution in tetrahydrofuran, 9.0 ml) at -78° C., and the mixture was stirred at the same temperature for 15 minutes. To the reaction mixture was added N,N-dimethylformamide (1.3 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether. The extract was concentrated to dryness under reduced pressure to give 4-(2-t-butyldimethylsiloxyethyl)benzaldehyde(3.59 g)To a solution of ethyl triphenylphosphranylidenebutylate (2.22 g), which was prepared from (3-carboethoxypropyl)triphenylphosphonium bromide and sodium bis(trimethylsilyl)amide, in tetrahydrofuran (25 ml) was added 4-(2-t-butyldimethylsiloxyethyl)benzaldehyde (1.57 g) at -78° C., and the mixture was stirred at the same temperature for 4 hours and allowed to stand at room temperature for 12 hours. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether. The extract was washed with brine, dried over anhydrous MgSO4, and the solvent was removed under reduced pressure. To a solution of the residue in acetonitrile (80 ml) was added a 47% hydrofluoric acid (1 ml), and the mixture was stirred at room temperature for 1 hour. The solvent was concentrated under reduced pressure. The residue was dissolved in chloroform, the solution was washed with a saturated aqueous NaHCO3 solution, and dried over anhydrous MgSO4. The solvent was removed under reduced pressure. The residue was purified by medium pressure liquid column chromatography on a silica gel column using a mixture of methylene chloride, diethyl ether and methanol (1:1:1) as eluent to give 2-[4-(4-ethoxycarbonyl-1-butenyl)phenyl]ethyl alcohol (0.35 g).

reactant | (3-carboethoxypropyl)triphenylphosphonium bromide | [Br-].C(=O)(OCC)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-(2-t-butyldimethylsiloxyethyl)benzaldehyde | 1.57 g | O([Si](C)(C)C(C)(C)C)CCC1=CC=C(C=O)C=C1 | C15H24O2Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-[4-(4-ethoxycarbonyl-1-butenyl)phenyl]ethyl alcohol | 0.35 g | C(C)OC(=O)CCC=CC1=CC=C(C=C1)CCO | C15H20O3
